US08455477B2
To a solution of 4-(5-methoxy-7-phenylimidazo[1,2-a]pyridin-3-yl)thiophene-2-carboxylic acid (10.0 mg, 0.029 mmol) in N,N-dimethylformamide (1 ml) was added 1,1′-carbonyldiimidazole (7.0 mg, 0.043 mmol). After 20 minutes cis-1,2-cyclohexanediamine (0.034 ml, 0.29 mmol) was added. After 10 minutes the reaction mixture was purified directly by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give N-[(1S,2R)-2-aminocyclohexyl]-4-(5-methoxy-7-phenylimidazo[1,2-a]pyridin-3-yl)thiophene-2-carboxamide. 1H NMR (600 MHz, DMSO-d6) δ 8.13 (s, 1H); 7.85 (d, 2H); 7.74 (d, 1H); 7.59 (s, 1H); 7.54 (d, 1H); 7.47-7.49 (m, 2H); 7.38-7.41 (m, 1H); 6.66 (d, 1H); 3.99 (s, 3H); 1.50-1.72 (m, 7H); 1.29-1.36 (m, 3H). LRMS (ESI) calculated for C25H27N4O2S [M+H]+, 447.2 found 447.1.

reactant | 4-(5-methoxy-7-phenylimidazo[1,2-a]pyridin-3-yl)thiophene-2-carboxylic acid | 0.029 mmol, 10.0 mg | COC1=CC(=CC=2N1C(=CN2)C=2C=C(SC2)C(=O)O)C2=CC=CC=C2 | C19H14N2O3S
reactant | 1,1′-carbonyldiimidazole | 0.043 mmol, 7.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cis-1,2-cyclohexanediamine | 0.29 mmol, 0.034 ml | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[(1S,2R)-2-aminocyclohexyl]-4-(5-methoxy-7-phenylimidazo[1,2-a]pyridin-3-yl)thiophene-2-carboxamide | N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=C(C1)C1=CN=C2N1C(=CC(=C2)C2=CC=CC=C2)OC | C25H26N4O2S
